US09428512B2
Intermediate 20: 5-((Benzyloxy)methyl)-2-butyl-7-(3-(piperazin-1-yl)prop-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a solution of tert-butyl 4-(3-(4-amino-5-((benzyloxy)methyl)-2-butyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl)prop-2-yn-1-yl)piperazine-1-carboxylate (85 mg, 0.160 mmol) in anhydrous methanol (5 mL) was added 4M hydrogen chloride in 1,4-dioxane (0.5 ml, 2.0 mmol). The reaction was stirred at room temperature for 19 hours. A further 0.5 mL (2.0 mmol) of 4M hydrogen chloride in 1,4-dioxane was added to the reaction. Reaction stirred at room temperature for 2 hours. The reaction was evaporated to dryness under a stream of nitrogen to yield a green oil. The oil was dissolved in MeOH:DMSO (1:1) (2×1 mL) and purified by MDAP (Method B). Appropriate fractions were combined and evaporated in-vacuo to yield the title compound as a pale yellow oil (38 mg).

reactant | tert-butyl 4-(3-(4-amino-5-((benzyloxy)methyl)-2-butyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl)prop-2-yn-1-yl)piperazine-1-carboxylate | 0.160 mmol, 85 mg | NC=1C2=C(N=C(N1)CCCC)C(=CN2COCC2=CC=CC=C2)C#CCN2CCN(CC2)C(=O)OC(C)(C)C | C30H40N6O3
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | hydrogen chloride | 2.0 mmol, 4M, 0.5 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
solvent | 1,4-dioxane | 2.0 mmol, 0.5 ml | O1CCOCC1 | C4H8O2
product | 5-((Benzyloxy)methyl)-2-butyl-7-(3-(piperazin-1-yl)prop-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 38 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)C#CCN2CCNCC2 | C25H32N6O
